US05159061
(III) Production of Boc-Ser(Bzl)-Phe-D-Arg(Tos)-Tyr(Bzl)-OBzl
Using 3.90 g Boc-Phe-D-Arg(Tos)-Tyr(Bzl)-OBzl, 1.60 g Boc-Ser(Bzl)-OH, 1.08 g HONB and 1.24 g DCC, the desired product was obtained in exactly the same manner as in Example 1-(III).

reactant | Boc-Phe-D-Arg(Tos)-Tyr(Bzl)-OBzl | 3.90 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C50H58N6O9S
reactant | Boc-Ser(Bzl)-OH | 1.60 g | N([C@@H](COCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C15H21NO5
reactant | HONB | 1.08 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 1.24 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Boc-Ser(Bzl)-Phe-D-Arg(Tos)-Tyr(Bzl)-OBzl | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C60H69N7O11S
